US06762180B1
(61) 3-Z-[1-(4-(N-(3-trifluoroacetylamino-propyl)-N-methylsulphonyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and N-(3-trifluoroacetylamino-propyl)-N-methylsulphonyl-p-phenylenediamine Rf value: 0.5 (aluminium oxide, methylene chloride/methanol=20:1) C29H27F3N4O6S

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | N-(3-trifluoroacetylamino-propyl)-N-methylsulphonyl-p-phenylenediamine | FC(C(=O)NCCCN(C1=CC=C(C=C1)N)S(=O)(=O)C)(F)F | C12H16F3N3O3S
product | 3-Z-[1-(4-(N-(3-trifluoroacetylamino-propyl)-N-methylsulphonyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | FC(C(=O)NCCCN(S(=O)(=O)C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1)(F)F | C29H27F3N4O6S
